US07915443B2
(S)-N-[(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)(oxido)phenyl--sulfanylidene]-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide
In a manner similar to that described in Example 506 (step 3), (S)-5-bromo-N-[(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)(oxido)phenyl--sulfanylidene]nicotinamide and N-(3-ethynylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide are converted to the title compound.

reactant | (S)-5-bromo-N-[(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)(oxido)phenyl--sulfanylidene]nicotinamide | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)CCCO[Si](C)(C)C(C)(C)C)C1 | C21H29BrN2O3SSi
reactant | N-(3-ethynylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | C(#C)C=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C14H13N3O
product | (S)-N-[(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)(oxido)phenyl--sulfanylidene]-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinamide | [Si](C)(C)(C(C)(C)C)OCCC[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C)=O)(C1=CC=CC=C1)=O | C35H41N5O4SSi
